US07943639B2
tert-Butyl 4-(2-bromothieno[3,2-c]pyridin-4-yl)piperazine-1-carboxylate
2-Bromo-4-chlorothieno[3,2-c]pyridine (5.0 g, 20.24 mmol) and K2CO3 (13.97 g, 101.2 mmol) was stirred in DMSO (20 mL) followed by addition of tert-butyl piperazine-1-carboxylate (4.14 g, 22.26 mmol). The reaction mixture was stirred at 100° C. for 6 days. The reaction mixture was filtered to eliminate the carbonate and addition of water (50 mL) and ethyl was followed. The phases were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried (MgSO4) and the solvent was evaporated. The crude product was purified by flash chromatography using ethyl acetate/hexanes (2/8) as eluent to give 2 g of the desired product, yield 25%, 99% pure. 1H NMR (270 MHz, CDCl3) δ 1.48 (s, 9H), 1.52-1.63 (m, 1H), 3.42-3.47 (m, 4H), 3.61-3.64 (m, 4H), 7.22 (dd, J=5.4, 1 Hz, 1H), 7.35 (d, J=1 Hz, 1H), 8.04 (d, J=5.4 Hz, 1H). m/z=398.91 (M+H), bromide pattern.

reactant | 2-Bromo-4-chlorothieno[3,2-c]pyridine | 20.24 mmol, 5.0 g | BrC1=CC=2C(=NC=CC2S1)Cl | C7H3BrClNS
reactant | K2CO3 | 101.2 mmol, 13.97 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl piperazine-1-carboxylate | 22.26 mmol, 4.14 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | tert-Butyl 4-(2-bromothieno[3,2-c]pyridin-4-yl)piperazine-1-carboxylate | 2 g, yield 25% | BrC1=CC=2C(=NC=CC2S1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H20BrN3O2S
